US09079890B2
To a solution of sodium isothiocyanate (0.24 g, 3.0 mmol) in acetonitrile (30 mL) was added pyridine (0.51 g, 6.5 mmol) followed by (R)—N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (0.77 g, 2.6 mmol) and the reaction was stirred at 60° C. for 20 minutes, followed by addition of 3-(2,6-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine (0.70 g, 2.2 mmol) and the reaction was stirred overnight at 60° C. The reaction was concentrated in vacuo and the residue partitioned between EtOAc and 2 M NaOH. The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo. The material was purified over silica gel (30% EtOAc in CH2Cl2) to afford (S)—N-(3-(2,6-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (0.50 g, 0.91 mmol, 42% yield).

reactant | sodium isothiocyanate | 3.0 mmol, 0.24 g | [N-]=C=S.[Na+]
reactant | pyridine | 6.5 mmol, 0.51 g | N1=CC=CC=C1 | C5H5N
reactant | (R)—N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 2.6 mmol, 0.77 g | CS(=O)(=O)ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C10H16ClNO5S
reactant | 3-(2,6-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine | 2.2 mmol, 0.70 g | CC1=NC(=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)N)C | C17H16N4OS
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | (S)—N-(3-(2,6-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 0.91 mmol, 0.50 g, 42% yield | CC1=NC(=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)C | C27H28N6O3S2
